US05256330
Ethyl 4-(4-heptyloxyphenyl)-4-hydroxybutanoate (17 g), porcine pancreatic lipase (hereinafter abbreviated to PPL) (34.4 g) and anhydrous diethyl ether (500 ml) were placed in a 1 l three-necked flask(followed by agitating the mixture at room temperature for 4 days, filtering off PPL, concentrating the filtrate under reduced pressure, and purifying the concentrate according to chromatography, to obtain rel-(S)-γ-(4-heptyloxyphenyl)-γ-butyrolactone (4 g) (69% e.e., optical purity (%) was measured by Chiral Cell OB made by Daisel Co., Ltd., e.e.: abbreviation of enantiomer excess, hereinunder this applies to) and ethyl rel-(R)-γ-(4-heptyloxyphenyl)hydroxybutanoate (5.2 g) ([α]D26.0 -13.69 (c 10.24, chloroform)). The former was recrystallized from ethanol, followed by removing the resulting crystals, concentrating the mother liquor under reduced pressure and recrystallizing the concentrate from ethanol to obtain rel-(S)-γ-(4-heptyloxyphenyl)-γ-butyrolactone (3.8 g) (95% e.e.). m.p.: 44.0° C., [α]D31.6 +6.62 (c 11.89, chloroform).

reactant | Ethyl 4-(4-heptyloxyphenyl)-4-hydroxybutanoate | 17 g | C(CCCCCC)OC1=CC=C(C=C1)C(CCC(=O)OCC)O | C19H30O4
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | rel-(S)-γ-(4-heptyloxyphenyl)-γ-butyrolactone | 4 g | C(CCCCCC)OC1=CC=C(C=C1)[C@@H]1CCC(=O)O1 | C17H24O3
